US07557213B2
Preparation of 1-(6-bromo-pyridin-2-ylmethyl)-3-(5,6-dimethyl-pyridine-3-carbonyl)-6-fluoro-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 50 mg (0.17 mmol) of 3-(5,6-dimethyl-pyridine-3-carbonyl)-6-fluoro-1H-quinolin-4-one, 8 mg (0.20 mmol) of 60% sodium hydride and 51 mg (0.20 mmol) of 2-bromo-6-bromomethyl-pyridine and 0.7 mL of N,N-dimethylformamide. Yield: 38 mg of a white solid: LC-MSD, m/z for C23H17BrFN3O2 [M+H]+=466.2, 468.1; HPLC retention time: 2.1 min.

reactant | 3-(5,6-dimethyl-pyridine-3-carbonyl)-6-fluoro-1H-quinolin-4-one | 0.17 mmol, 50 mg | CC=1C=C(C=NC1C)C(=O)C1=CNC2=CC=C(C=C2C1=O)F | C17H13FN2O2
reactant | sodium hydride | 0.20 mmol, 8 mg | [H-].[Na+]
reactant | 2-bromo-6-bromomethyl-pyridine | 0.20 mmol, 51 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 1-(6-bromo-pyridin-2-ylmethyl)-3-(5,6-dimethyl-pyridine-3-carbonyl)-6-fluoro-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC(=CC=C12)F)=O)C(=O)C=1C=NC(=C(C1)C)C | C23H17BrFN3O2
